US08119666B2
E. N-(t-Butoxycarbonylsulfamoyl)-N-(2-benzyloxy-4-phenoxyphenyl)glycine methyl ester
To a solution of chlorosulfonyl isocyanate (0.274 g, 1.93 mmol) in DCM (2 mL) is added dropwise a solution of t-butanol (0.143 g, 1.93 mmol) in 1 mL DCM. The solution is stirred at ambient temperature for 45 min. A solution of (2-benzyloxy-4-phenoxyphenylamino)acetic acid methyl ester (0.50 g, 1.38 mmol) and triethylamine (0.278 g, 2.75 mmol) in DCM (1 mL) is added dropwise. The mixture is stirred at ambient temperature for 30 min., then washed with Water. The organic phase is dried over Na2SO4 and the solvent removed under reduced pressure. The residual oil is purified by flash chromatography using DCM to elute N-(t-butoxycarbonylsulfamoyl)-N-(2-benzyloxy-4-phenoxyphenyl)glycine methyl ester as an oil: 1H NMR (CDCl3) δ 7.50 (d, J=8.84 Hz, 1H), 7.34-7.23 (m, 8H), 7.08 (t, 1H), 6.92-6.88 (m, 2H), 6.50 (d, J=2.53 Hz, 1H), 6.43 (dd, J=11.12, 2.53 Hz, 1H), 5.22 (s, 2H), 5.01 (s, 2H), 3.62 (s, 3H), 1.36 (s, 9H); MS (M−H)−=541.

reactant | chlorosulfonyl isocyanate | 1.93 mmol, 0.274 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | t-butanol | 1.93 mmol, 0.143 g | C(C)(C)(C)O | C4H10O
reactant | (2-benzyloxy-4-phenoxyphenylamino)acetic acid methyl ester | 1.38 mmol, 0.50 g | COC(CNC1=C(C=C(C=C1)OC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C22H21NO4
reactant | triethylamine | 2.75 mmol, 0.278 g | C(C)N(CC)CC | C6H15N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(t-Butoxycarbonylsulfamoyl)-N-(2-benzyloxy-4-phenoxyphenyl)glycine methyl ester | COC(CN(C1=C(C=C(C=C1)OC1=CC=CC=C1)OCC1=CC=CC=C1)S(NC(=O)OC(C)(C)C)(=O)=O)=O | C27H30N2O8S
